US08486970B2
A mixture of 8 g of 4-(benzyloxy)-2-(carboxymethyl)benzoic acid and 30 ml of acetyl chloride was heated under reflux for 3 hours. The reaction solution was concentrated under reduced pressure, added with ether, and collected by filtration to obtain 7.50 g of 6-(benzyloxy)-1H-isochromene-1,3(4H)-dione as a dark brown solid.

reactant | 4-(benzyloxy)-2-(carboxymethyl)benzoic acid | 8 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)CC(=O)O | C16H14O5
solvent | acetyl chloride | 30 ml | C(C)(=O)Cl | C2H3ClO
product | 6-(benzyloxy)-1H-isochromene-1,3(4H)-dione | 7.50 g | C(C1=CC=CC=C1)OC=1C=C2CC(OC(C2=CC1)=O)=O | C16H12O4
